US09120749B2
{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-1, {6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone (56 mg, 0.120 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (49 mg, 0.180 mmol) to afford the desired product (20 mg, 32%) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.45 (s, 1H), 8.22 (dd, J=8.8, 1.9 Hz, 1H), 8.02 (d, J=8.8 Hz, 1H), 7.91 (s, 1H), 7.65-7.58 (m, 1H), 7.54 (d, J=7.8, 1H), 7.46 (s, 1H), 7.38 (d, J=7.8 Hz, 1H), 7.12 (dd, 11.5, 2.3 Hz, 1H), 6.95 (s, 1H), 3.72-3.64 (m, 2H), 3.45-3.36 (m, 2H), 3.17-3.05 (m, 4H), 2.92-2.83 (m, 1H), 2.20-2.09 (m, 2H), 2.08-1.99 (m, 2H), 1.31-1.16 (m, 4H); ESI MS m/z 530 [C31H29ClFN3O2+H]+; HPLC>99% (AUC), tR=10.82 min.

reactant | {6-bromo-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.120 mmol, 56 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCCC1 | C25H26BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.180 mmol, 49 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | {6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[3-(2-(pyrrolidin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 20 mg, 32% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCCC1 | C31H29ClFN3O2
